US09102591B2
2-chloro-N-(3-cyclopropyl-2-(6-(trifluoromethyl)pyridin-3-yl)propyl)-3-fluorobenzamide
From 2-chloro-3-fluorobenzoic acid and 3-cyclopropyl-2-(6-(trifluoromethyl)pyridin-3-yl)propan-1-amine. LCMS (MH+): m/z=401.1, tR (minutes, Method G)=2.51

reactant | 2-chloro-3-fluorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1F | C7H4ClFO2
reactant | 3-cyclopropyl-2-(6-(trifluoromethyl)pyridin-3-yl)propan-1-amine | C1(CC1)CC(CN)C=1C=NC(=CC1)C(F)(F)F | C12H15F3N2
product | 2-chloro-N-(3-cyclopropyl-2-(6-(trifluoromethyl)pyridin-3-yl)propyl)-3-fluorobenzamide | ClC1=C(C(=O)NCC(CC2CC2)C=2C=NC(=CC2)C(F)(F)F)C=CC=C1F | C19H17ClF4N2O
